2120-02-23 07:38:00 Physician Resident Progress Note
Chief Complaint: transfer for renal failure in setting of heart failure
   24 Hour Events:
   [**Date range (1) 14359**]
   - renal curbsided: confirmed futility of dialysis
   - norepinephrine weaned; vasopressin started
   - very low UOP throughout afternoon and evening
   - family meeting to address goals of care: changed code status to
   DNR/DNI; patient and family would like palliative care consult, would
   like for patient to return home with consideration of home hospice
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-2-22**] 08:00 AM
   Dextrose 50% - [**2120-2-23**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-2-23**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 63 (60 - 115) bpm
   BP: 67/38(45) {56/34(40) - 96/57(66)} mmHg
   RR: 21 (10 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 13 (8 - 16)mmHg
   Total In:
                                                                  1,576 mL
                                                                    507 mL
   PO:
                                                                    400 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  1,176 mL
                                                                     47 mL
   Blood products:
   Total out:
                                                                    187 mL
                                                                      0 mL
   Urine:
                                                                    187 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,389 mL
                                                                    507 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///15/
   Physical Examination
   GENERAL: Cachectic elderly man lying comfortably in bed.  He is unable
   to sit up in bed on his own.
   HEENT: +Temporal wasting. Sclera anicteric. PERRL, EOMI. Conjunctiva
   were pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of [**4-30**] cm.  No thyroid enlargement.
   CARDIAC: PMI is not displaced.  Irregularly irregular and borderline
   tachycardic, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS:  Resp were unlabored, no accessory muscle use.  Poor air
   movement at the bases with some diffuse lower crackles.
   ABDOMEN: +BS.  RLQ with recent fat pad biopsy site.  Abd is distended
   but soft.  He has mild tenderness in the area of his recent biopsy
   site.  No guarding or rebound.
   EXTREMITIES:  Diffuse swelling in his arms and legs with pitting
   edema.  Feet are cool to touch and pulses are difficult to palpate.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   NEURO:  Alert, oriented, reluctantly able to follow discussion about
   his prognosis.  Strength in UE and LE is [**3-27**] b/l.
   Labs / Radiology
   257 K/uL
   8.3 g/dL
   19 mg/dL
   5.2 mg/dL
   15 mEq/L
   5.5 mEq/L
   62 mg/dL
   111 mEq/L
   140 mEq/L
   26.5 %
   7.3 K/uL
        [image002.jpg]
                             [**2120-2-21**]  09:39 PM
                             [**2120-2-22**]  04:09 AM
                             [**2120-2-23**]  04:43 AM
   WBC
   7.1
   7.3
   Hct
   28.3
   26.5
   Plt
   287
   257
   Cr
   4.3
   4.4
   5.2
   TropT
   0.44
   0.50
   Glucose
   100
   75
   19
   Other labs: CK / CKMB / Troponin-T:56//0.50, Lactic Acid:1.0 mmol/L,
   Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:7.0 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: No new.
   Microbiology: No new.
   ECG: .
   Assessment and Plan
   Mr. [**Known lastname 840**] is a 74yo gentleman with diastolic heart failure and chronic
   kidney disease in the setting of recently diagnosed amyloidosis who
   presents with hypotension, acute renal failure, and volume overload.
   # Hypotension:
   Felt to be due to autonomic dysfunction and inappropriate
   vasodilation.  Note that he often had episodes of hypotension with SBPs
   in the 60s during his recent hospital stay.  He endorses poor PO intake
   and he is very thirsty, suggesting that there may be a component of
   hypovolemia.  No fevers, leukocytosis, or symptoms to suggest an
   infection.  Cardiogenic shock unlikely unless he suffered new insult,
   and although his troponin is elevated, this is in the setting of
   worsening renal failure.  His EKG does not show evidence of new
   ischemia and he denies chest pain.
   - judicious IVF boluses as needed with the understanding that he third
   spaces most of the fluid given to him
   - wean norepinephrine gtt as tolerated
   - f/u urine and blood cultures; no indications for antibiotics at this
   time
   - monitor mental status and urine output
   - will follow serial cardiac biomarkers
   - monitor on tele
   # Acute renal failure on chronic kidney disease:  current Cr 4.2,
   baseline Cr 2.5-2.9:
   Likely due to poor renal perfusion in setting of hypotension
   superimposed on progressively worsening renal dysfunction that has been
   attributed to amyloid or plasma cell dyscrasia.
   - again, would be judicious with IV fluids as he may well have ATN from
   his hypotension and this would not correct immediately with volume
   resuscitation
   - will contact renal in AM for assistance with spinning urine
   - monitor chem 10 [**Hospital1 7**] to TID
   - avoid renally toxic agents
   # Amyloid and concern for Plasma cell dyscrasia:
   Per discussion with Dr. [**Last Name (STitle) 14319**], patient has poor prognosis due to both
   cardiac and suspected renal involvement.  Also suspicious for possible
   plasma cell dyscrasia given monoclonal Ig spike.
   - will contact [**Name (NI) **]/Onc in AM regarding possibility of inpatient BM
   biopsy
   - have discussed poor prognosis with patient; at this time, he is
   asking that he be treated to "keep him around" as much as possible
   # Atrial fibrillation:  Unclear upon review of discharge summary if
   team was aware that he had been in AFib during recent hospital stay.
   CHADS score is [**11-25**] depending on whether age ought to be counted.  Given
   his multiple comorbidities, do not feel strongly that benefits outweigh
   risks for anticoagulation.
   - monitor rate
   - continue ASA
   # Chronic Diastolic heart failure:
   Would benefit from diuresis, but he has been unable to tolerate
   significant diuresis during recent hospital stay.  Will manage volume
   as needed to support his blood pressure as discussed above.
   # COPD:  continue nebs
   # h/o alcohol abuse:  continue MVI, thiamine, folate
   # Iron deficiency anemia:   baseline hct 25-29, current Hct 30
   - monitor
   # Dyslipidemia:
   Not on his PMH and LDL 44 with HDL of 21 when checked this month.
   - will stop statin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2120-2-21**] 06:41 PM
   Midline - [**2120-2-21**] 06:42 PM
   Multi Lumen - [**2120-2-22**] 06:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:

2120-02-24 07:17:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   HPI:
   24 Hour Events:
 EKG - At [**2120-2-24**] 04:15 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2120-2-23**] 02:25 PM
   Heparin Sodium (Prophylaxis) - [**2120-2-23**] 10:00 PM
   Hydromorphone (Dilaudid) - [**2120-2-23**] 10:25 PM
   Dextrose 50% - [**2120-2-24**] 06:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-2-24**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 35.6
C (96.1
   Tcurrent: 34.5
C (94.1
   HR: 106 (61 - 134) bpm
   BP: 53/27(33) {53/27(33) - 114/90(107)} mmHg
   RR: 23 (12 - 25) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   CVP: 13 (9 - 17)mmHg
   Total In:
                                                                    656 mL
                                                                    193 mL
   PO:
                                                                    360 mL
   TF:
   IVF:
                                                                    146 mL
                                                                     43 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    656 mL
                                                                    193 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///14/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   208 K/uL
   82 mg/dL
   6.1 mg/dL
   14 mEq/L
   6.0 mEq/L
   65 mg/dL
   109 mEq/L
   137 mEq/L
   26.8 %
   7.2 K/uL
        [image002.jpg]
                             [**2120-2-21**]  09:39 PM
                             [**2120-2-22**]  04:09 AM
                             [**2120-2-23**]  04:43 AM
                             [**2120-2-24**]  04:21 AM
   WBC
   7.1
   7.3
   7.2
   Hct
   28.3
   26.5
   26.8
   Plt
   287
   257
   208
   Cr
   4.3
   4.4
   5.2
   6.1
   TropT
   0.44
   0.50
   Glucose
   100
   75
   19
   82
   Other labs: CK / CKMB / Troponin-T:56//0.50, ALT / AST:23/77, Alk Phos
   / T Bili:210/0.5, Lactic Acid:1.0 mmol/L, Ca++:8.5 mg/dL, Mg++:2.2
   mg/dL, PO4:8.9 mg/dL
   Assessment and Plan
 HYPOGLYCEMIA
 KNOWLEDGE DEFICIT
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2120-2-21**] 06:41 PM
   Midline - [**2120-2-21**] 06:42 PM
   Multi Lumen - [**2120-2-22**] 06:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: